US04045408
(2-Hydroxyhexafluoro-2-propyl)-3,4-dimethylbenzene, I.
This compound was prepared from o-xylene and hexafluoroacetone: bp 101°-102°/20.0 mm Hg; ND25 1.4334; lit. (1) bp 200-200.5°/760 mm Hg.

reactant | hexafluoroacetone | FC(C(=O)C(F)(F)F)(F)F | C3F6O
reactant | o-xylene | CC=1C=CC=CC1C | C8H10
product | (2-Hydroxyhexafluoro-2-propyl)-3,4-dimethylbenzene | OC(C(F)(F)F)(C(F)(F)F)C1=CC(=C(C=C1)C)C | C11H10F6O
